US06855708B2
N-BOC-1-methyl-octahydroisoindole-1-carboxylic acid, methyl ester was treated with HCl according to the procedure described in Example 1, Step A to afford 1-methyl-octahydroisoindole-1-carboxylic acid, methyl ester hydrochloride which was used without further purification.

reactant | N-BOC-1-methyl-octahydroisoindole-1-carboxylic acid, methyl ester | C(=O)(OC(C)(C)C)N1C(C2CCCCC2C1)(C(=O)OC)C | C16H27NO4
reactant | HCl | Cl | ClH
product | 1-methyl-octahydroisoindole-1-carboxylic acid, methyl ester hydrochloride | Cl.CC1(NCC2CCCCC12)C(=O)OC | InChI=1S/C11H19NO2.ClH/c1-11(10(13)14-2)9-6-4-3-5-8(9)7-12-11;/h8-9,12H,3-7H2,1-2H3;1H
